US08071651B2
a) 6-Bromo-3-methoxy-2-(4-methoxybut-1-enyl)pyridine
1.5 mmol of 6-bromo-3-methoxypyridine-2-carbaldehyde and (3-methoxypropyl)triphenyl-phosphonium iodide [133622-76-1] are reacted in analogy to building block 24a. The title compound is identified by means of the Rf.

reactant | 6-bromo-3-methoxypyridine-2-carbaldehyde | 1.5 mmol | BrC1=CC=C(C(=N1)C=O)OC | C7H6BrNO2
reactant | (3-methoxypropyl)triphenyl-phosphonium iodide | [I-].COCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 6-Bromo-3-methoxy-2-(4-methoxybut-1-enyl)pyridine | BrC1=CC=C(C(=N1)C=CCCOC)OC | C11H14BrNO2
